US04873244
Gaseous dimethylamine was passed through a stirred solution of 3-(5-cyclopropyl-1,2,4-oxadiazol-3-yl)-4-methyl-5-oxo-6-chloro-4,5-dihydro-imidazo(1,5-a)quinazoline (0.4 g, 1.2 mmol) in 25 ml of dry dimethylformamide at 110° C. for 2 h. The reaction mixture was evaporated in vacuo and the residue was triturated with 20 ml of water, filtered off and dried to give 0.35 g (86%) of 3-(5-cyclopropyl-1,2,4-oxadiazol-3-yl)-4-methyl-5-oxo-6-dimethylamino-4,5-dihydro-imidazo(1,5-a)quinazoline, M.p. 170°-171° C.

reactant | dimethylamine | CNC | C2H7N
reactant | 3-(5-cyclopropyl-1,2,4-oxadiazol-3-yl)-4-methyl-5-oxo-6-chloro-4,5-dihydro-imidazo(1,5-a)quinazoline | 1.2 mmol, 0.4 g | C1(CC1)C1=NC(=NO1)C=1N=CN2C1N(C(C1=C(C=CC=C21)Cl)=O)C | C16H12ClN5O2
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 3-(5-cyclopropyl-1,2,4-oxadiazol-3-yl)-4-methyl-5-oxo-6-dimethylamino-4,5-dihydro-imidazo(1,5-a)quinazoline | 0.35 g, 86% | C1(CC1)C1=NC(=NO1)C=1N=CN2C1N(C(C1=C(C=CC=C21)N(C)C)=O)C | C18H18N6O2
